** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/top/tb_top_chopper.sch
**.subckt tb_top_chopper
VCC VDD GND 3.3
VSS VSS GND 0
C_TEST V_Ri VSS 2p
C_SENS V_Si VSS 2p
C_Delta V_no_buff_s VSS 1f
C_Delta2 V_no_buff_r VSS 1f
V_iref VIN_1 net1 0
.save i(v_iref)
V_isens VIN_2 net2 0
.save i(v_isens)
V_dout net3 DOUT_CLOAD 0
.save i(v_dout)
x1 VDD VSS net3 net4 net1 net2 DFF
x5 net4 net5 VDD VSS BUFF
x6 DOUT_CLOAD net11 VDD VSS BUFF
x7 V_Ri VDD net6 VDD VSS TGATE
x4 VDD VIN_1 V_no_buff_r net7 net8 VSS Vcont OSC
x2 VDD VIN_2 V_no_buff_s net9 net10 VSS Vcont OSC
x3 V_Si DOUT_CLOAD V_pre_gate VDD VSS TGATE
x8 net6 V_Ri VSS chp1 chp2 net7 net8 chopper
Vcont Vcont GND 0.1
V3 chp1 GND PULSE(0 3.3 0 1p 1p 50u 100u)
V4 chp2 GND PULSE(3.3 0 0 1p 1p 50u 100u)
x9 V_pre_gate V_Si VSS chp1 chp2 net9 net10 chopper
**** begin user architecture code


.ic v(v_si) = 3.3
.ic v(v_ri) = 0
*.save all
.save v(DOUT_CLOAD) i(VCC)
*.OPTION CSHUNT=0.01e-12
.OPTION ABSTOL=1e-15.
.OPTION GMIN=1.0e-12.
.OPTION ITL1=1e5
.OPTION RSHUNT=1e12
.OPTION RELTOL=1e-5

.option TEMP=27
.control

alter C_SENS 2.5p
tran 1n 10m
wrdata /foss/designs/SSCS-Chipathon-2026-ABC123-team/ABC123_SDC/sim_data/SDC_CIN_2_5P.txt v(DOUT_CLOAD)
wrdata /foss/designs/SSCS-Chipathon-2026-ABC123-team/ABC123_SDC/sim_data/SDC_CIN_2_5P_PWR.txt i(VCC)

*wrdata /foss/designs/SDC_techmigration_May2026/sim_data/SDC_CINsweep_v6p3_GF.txt tran1.v(DOUT_CLOAD) tran2.v(DOUT_CLOAD) tran3.v(DOUT_CLOAD) tran4.v(DOUT_CLOAD) tran5.v(DOUT_CLOAD) tran6.v(DOUT_CLOAD) tran7.v(DOUT_CLOAD) tran8.v(DOUT_CLOAD) tran9.v(DOUT_CLOAD) tran10.v(DOUT_CLOAD) tran11.v(DOUT_CLOAD) tran12.v(DOUT_CLOAD) tran13.v(DOUT_CLOAD) tran14.v(DOUT_CLOAD) tran15.v(DOUT_CLOAD) tran16.v(DOUT_CLOAD)
*wrdata /foss/designs/SDC_techmigration_May2026/sim_data/SDC_CINsweep_v6p3_GF_PWR.txt tran16.i(VCC)
*rusage time totalcputime
*rusage everything > sim_stats.log
.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
* .lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical

**** end user architecture code
**.ends

* expanding   symbol:  ABC123_SDC/design_data/xschem/DFF/DFF.sym # of pins=6
** sym_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/DFF/DFF.sym
** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/DFF/DFF.sch
.subckt DFF VDD GND D ND CLK IN
*.ipin IN
*.ipin CLK
*.iopin VDD
*.iopin GND
*.opin ND
*.opin D
XM3 net1 IN VDD VDD pfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 NDIFF CLK net1 VDD pfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 NDIFF IN GND GND nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 NODE2 NDIFF VDD VDD pfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 PDIFF CLK NODE2 VDD pfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 D ND VDD VDD pfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 ND D VDD VDD pfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 PDIFF NDIFF GND GND nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 NODE3 CLK GND GND nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 ND PDIFF NODE3 GND nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 D ND GND GND nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM12 ND D GND GND nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM13 D NDIFF NODE4 GND nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 NODE4 CLK GND GND nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  ABC123_SDC/design_data/xschem/BUFF/BUFF.sym # of pins=4
** sym_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/BUFF/BUFF.sym
** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/BUFF/BUFF.sch
.subckt BUFF VIN VOUT VDD VSS
*.ipin VIN
*.iopin VDD
*.iopin VSS
*.opin VOUT
XM1 MID_BUFF VIN VDD VDD pfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 MID_BUFF VIN VSS VSS nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 VOUT MID_BUFF VDD VDD pfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 VOUT MID_BUFF VSS VSS nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  ABC123_SDC/design_data/xschem/TGATE/TGATE.sym # of pins=5
** sym_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/TGATE/TGATE.sym
** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/TGATE/TGATE.sch
.subckt TGATE VIN CTR VOUT VDD VSS
*.ipin VIN
*.iopin VDD
*.iopin VSS
*.ipin CTR
*.opin VOUT
XM1 VOUT CTR VIN VSS nfet_03v3 L=0.28u W=2.4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM2 VOUT net1 VIN VDD pfet_03v3 L=0.28u W=7.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
x1 CTR net1 VDD VSS INV
.ends


* expanding   symbol:  ABC123_SDC/design_data/xschem/OSC/OSC.sym # of pins=7
** sym_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/OSC/OSC.sym
** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/OSC/OSC.sch
.subckt OSC VDD N2 N1 CON_CV SENS_IN VSS Vcont
*.ipin SENS_IN
*.iopin VDD
*.iopin VSS
*.opin N1
*.opin N2
*.iopin CON_CV
*.ipin Vcont
x4 VDD N1 N1 SENS_IN VSS Vcont OSC_STAGE
x2 VDD Pre_buff Pre_buff N1 VSS Vcont OSC_STAGE
x3 VDD CON_CV SENS_IN Pre_buff VSS Vcont OSC_STAGE
x1 Pre_buff N2 VDD VSS BUFF
.ends


* expanding   symbol:  ABC123_SDC/design_data/xschem/CHOPPER/chopper.sym # of pins=7
** sym_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/CHOPPER/chopper.sym
** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/CHOPPER/chopper.sch
.subckt chopper vin_n vin_p agnd chopper1 chopper2 vin_nn vin_pp
*.ipin vin_n
*.ipin vin_p
*.ipin agnd
*.ipin chopper1
*.ipin chopper2
*.opin vin_nn
*.opin vin_pp
XM2 vin_n chopper1 vin_nn agnd nfet_03v3 L=0.28u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM1 vin_n chopper2 vin_pp agnd nfet_03v3 L=0.28u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM3 vin_p chopper2 vin_nn agnd nfet_03v3 L=0.28u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM4 vin_p chopper1 vin_pp agnd nfet_03v3 L=0.28u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
.ends


* expanding   symbol:  INV/INV.sym # of pins=4
** sym_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/INV/INV.sym
** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/INV/INV.sch
.subckt INV VIN VOUT VDD VSS
*.ipin VIN
*.iopin VDD
*.iopin VSS
*.opin VOUT
XM1 VOUT VIN VDD VDD pfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 VOUT VIN VSS VSS nfet_03v3 L=0.28u W=1.87u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  OSC_STAGE/OSC_STAGE.sym # of pins=6
** sym_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/OSC_STAGE/OSC_STAGE.sym
** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/OSC_STAGE/OSC_STAGE.sch
.subckt OSC_STAGE VDD CON_CV VOUT VIN VSS Vcont
*.ipin VIN
*.iopin VDD
*.opin VOUT
*.iopin CON_CV
*.iopin VSS
*.ipin Vcont
x1 VDD VIN VOUT VSS Vcont OSC_INV
x2 VOUT CON_CV VSS OSC_CAP
.ends


* expanding   symbol:  OSC_INV/OSC_INV.sym # of pins=5
** sym_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/OSC_INV/OSC_INV.sym
** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/OSC_INV/OSC_INV.sch
.subckt OSC_INV VDD VIN VOUT VSS Vcont
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
*.ipin Vcont
XM4 Nnet mirror VSS VSS nfet_03v3 L=2.5u W=0.22u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 Pnet mirror2 VDD VDD pfet_03v3 L=2.5u W=0.29u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 mirror2 mirror VSS VSS nfet_03v3 L=2.5u W=0.22u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 mirror2 mirror2 VDD VDD pfet_03v3 L=2.5u W=0.29u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 mirror mirror VSS VSS nfet_03v3 L=2.5u W=0.22u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 mirror Vcont VDD VDD pfet_03v3 L=2.5u W=0.29u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 VOUT VIN Pnet VDD pfet_03v3 L=2.5u W=15.825u nf=10 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 VOUT VIN Nnet VSS nfet_03v3 L=0.5u W=6.33u nf=10 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  OSC_CAP/OSC_CAP.sym # of pins=3
** sym_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/OSC_CAP/OSC_CAP.sym
** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/xschem/OSC_CAP/OSC_CAP.sch
.subckt OSC_CAP TOP_B TOP_V BOT
*.iopin TOP_V
*.iopin TOP_B
*.iopin BOT
XC2 TOP_B BOT cap_mim_2f0fF c_width=21.25e-6 c_length=20e-6
XC4 TOP_B BOT cap_mim_2f0fF c_width=21.25e-6 c_length=20e-6
XC1 TOP_V BOT cap_mim_2f0fF c_width=21.25e-6 c_length=20e-6 m=2
XC3 TOP_V BOT cap_mim_2f0fF c_width=21.25e-6 c_length=20e-6 m=2
.ends

.GLOBAL GND
.end
